US04567268
3-Dimethylaminopropyl 2-methyl-4-phenyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate
1.31 grams of 80 percent pyridinium bromide perbromide (3.28 millimoles) was added to a cooled to -20° C. solution of 1.30 grams (2.84 millimoles) of bis(3-dimethylaminopropyl) 2,6-dimethyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylate and 0.4 milliliter of pyridine in 20 milliliters of chloroform. The resulting mixture was stirred at -20° C. for 1/2 hour and then heated at reflux for 2 hours. The mixture was cooled to room temperature and allowed to stir overnight. The crude product was chromatographed on silica gel with 1 percent methanol in chloroform saturated with ammonia as eluant to obtain 161 milligrams of an oil which crystallized when mixed with CDCl3 for NMR analysis. The product was concentrated in vacuo and recrystallized from ethyl acetate-hexane to obtain crystals of m.p. 112°-115° C. after drying 70° C. overnight. The product was a hydrate having elemental analyses as follows:

reactant | pyridinium bromide perbromide | 3.28 millimoles, 1.31 grams | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | bis(3-dimethylaminopropyl) 2,6-dimethyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylate | 2.84 millimoles, 1.30 grams | CC=1NC(=C(C(C1C(=O)OCCCN(C)C)C1=CC=CC=C1)C(=O)OCCCN(C)C)C | C25H37N3O4
reactant | pyridine | 0.4 milliliter | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 3-Dimethylaminopropyl 2-methyl-4-phenyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | 161 milligrams | CC1=C(C(C2=C(N1)COC2=O)C2=CC=CC=C2)C(=O)OCCCN(C)C | C20H24N2O4
